US07683060B2
Step 2. 1-(4-Methoxyphenyl)cyclopropanecarbohydrazide
A mixture of methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate (0.90 g, 4.4 mmol) and hydrazine (0.65 mL, 21 mmol) was heated at 120° C. for 2 h. After cooling, the excess hydrazine was removed under reduced pressure. The residue was treated with water, filtered and washed with water to give the desired product (750 mg, 83%). Analytical LCMS: (M+H)+=207.1.

reactant | methyl 1-(4-methoxyphenyl)cyclopropanecarboxylate | 4.4 mmol, 0.90 g | COC1=CC=C(C=C1)C1(CC1)C(=O)OC | C12H14O3
reactant | hydrazine | 21 mmol, 0.65 mL | NN | H4N2
product | 1-(4-Methoxyphenyl)cyclopropanecarbohydrazide | 750 mg, 83% | COC1=CC=C(C=C1)C1(CC1)C(=O)NN | C11H14N2O2
